US06265575B1
Part E. 4-[[2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl]oxy]phenol
By essentially following the procedure detailed in Example 5, Part B, the title compound was prepared from 2-(4-methoxyphenyl)-3-(4-methoxyphenoxy)benzo[b]thiophene (Part D) in 87% yield following radial chromatography (SiO2; 25% EtOAc in hexanes).

reactant | 2-(4-methoxyphenyl)-3-(4-methoxyphenoxy)benzo[b]thiophene | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)OC2=CC=C(C=C2)OC | C22H18O3S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[[2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl]oxy]phenol | 87% yield | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)OC2=CC=C(C=C2)O | C20H14O3S
